Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ hx of breast ca who presents s/p fall. She states that 
somebody ran into her at her living facility and knocked her 
over.  Denies head strike or LOC.  She denies any pain at rest. 
Denies any headache, vision changes, chest pain, shortness of 
breath, abdominal pain, leg pain, hip pain. Denies fever/chills. 
 Reports right sided neck pain and shoulder pain, and dysuria.  
Also has urinary frequency, but this is ongoing and chronic.
 
In the ED, initial vs were: 97.8 106 180/63 16 100%.  Labs were 
remarkable for WBC 16.2 with 92% PMNs, Cl 89, and Cr 0.8.  UA 
with 10 WBCs, positive ___, and negative nitrites.  Patient was 
given macrobid ___.  She was evaluated by the neurosurgery 
team who felt the changes noted were chronic in nature.  She 
under went cervical flexion/extension filmes and was cleared per 
report from the spine team.  She remains in a soft cervical 
collar. She failed road test in the ED (very weak in the legs) 
thus we admitted for UTI and ___ evaluation.  Vitals on Transfer: 
97.9 86 158/76 16 96% RA.   
 
On the floor, the patient reports feeling well, in NAD.  Has 
mild neck/shoulder pain.  Vitals on arrival to floor were T:98.3 
BP:128/48 P:90 R:18 O2:100% RA 
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. Ten point review of systems is otherwise 
negative. 
 
Past Medical History:
Infiltrating lobular carcinoma of the right breast for which she 
underwent a simple mastectomy on ___ (Followed by 
Dr. ___.
Osteoperosis
HTN
DM
GERD
Anxiety/Depression
HLD
Glaucoma
Neuropathy
Cervical spine disease
PUD
s/p R total hip replacement
 
Social History:
___
Family History:
Per OMR.  Family history significant for father with 
hypertension and a sister with multiple sclerosis. She has 3 
healthy daughters and 7 healthy grandchildren. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=================
Vitals: T:98.3 BP:128/48 P:90 R:18 O2:100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, EOMI, MMM, oropharynx clear  
Neck: Trachea midline, no cervical adenopathy
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly 
BACK: No spinal ttp, right paraspinal ttp at cervical spine 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes or excoriations  
Neuro: A&Ox2 (person and place, not to time), Strength ___ on 
leg raise, ___ at foot dorsiflexion/plantar flexion, ___ at BUE, 
sensation grossly intact, speech fluent. 

DISCHARGE PHYSICAL EXAM:
========================
Vitals: T:97.7-98.3 BP:113-153/50-59 ___ R:18 O2:95-97% RA  
General: Alert, pleasant/conversant, no acute distress  
HEENT: Sclera anicteric, EOMI, MMM, oropharynx clear  
Neck: Trachea midline, no cervical adenopathy
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly 
MSK: No spinal ttp, right trapezius/shoulder pain on palpation, 
right knee with pain at medial aspect  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes or excoriations  
Neuro: A&Ox3, Strength ___ on leg raise, ___ at foot 
dorsiflexion/plantar flexion, ___ at BUE, sensation grossly 
intact, speech fluent. 

 
Pertinent Results:
LABS:
===========
___ 10:05AM BLOOD WBC-16.2*# RBC-4.84 Hgb-12.8 Hct-41.5 
MCV-86 MCH-26.4* MCHC-30.7* RDW-13.4 Plt ___
___ 05:15AM BLOOD WBC-7.5# RBC-4.08* Hgb-11.0* Hct-35.1* 
MCV-86 MCH-27.1 MCHC-31.4 RDW-13.5 Plt ___
___ 05:15AM BLOOD WBC-7.2 RBC-3.90* Hgb-10.6* Hct-34.4* 
MCV-88 MCH-27.1 MCHC-30.7* RDW-13.5 Plt ___
___ 10:05AM BLOOD Neuts-92.9* Lymphs-2.7* Monos-3.9 Eos-0.1 
Baso-0.4
___ 10:05AM BLOOD Glucose-205* UreaN-18 Creat-0.8 Na-135 
K-3.6 Cl-89* HCO3-29 AnGap-21*
___ 05:15AM BLOOD Glucose-127* UreaN-12 Creat-0.7 Na-133 
K-3.5 Cl-97 HCO3-28 AnGap-12
___ 05:15AM BLOOD Glucose-130* UreaN-13 Creat-0.6 Na-134 
K-4.1 Cl-99 HCO3-28 AnGap-11
___ 10:05AM BLOOD Calcium-9.9 Phos-2.6* Mg-1.6
___ 05:15AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.8
___ 05:15AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.3
___ 10:05AM URINE Color-Straw Appear-Hazy Sp ___
___ 10:05AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-300 Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 10:05AM URINE RBC-2 WBC-10* Bacteri-MOD Yeast-NONE 
Epi-0

MICRO:
=============
Time Taken Not Noted     Log-In Date/Time: ___ 11:28 am
      URINE     Site: CLEAN CATCH      GRAY HOLD # ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING/STUDIES:
=====================
ECG (___): 
Baseline artifact, likely sinus tachycardia. Early transition of 
R waves in the precordium. Possible Q waves in leads III and 
aVF, although baseline artifact precludes accurate 
interpretation which does raise the possibility of old inferior 
myocardial infarction, although this may just be obscured by
noise. Compared to the previous tracing there is significantly 
more baseline artifact. Repeat tracing is suggested.

CT HEAD W/O CONTRAST (___):
IMPRESSION: No acute intracranial process.

CT C-SPINE W/O CONTRAST (___):
IMPRESSION:
1.  No acute fracture. Anteriolisthesis of T1 on T2 could be 
degenerative in nature, but recommend clinical correlation for 
location of pain.
2.  Severe degenerative changes throughout the cervical spine.

LEFT KNEE XRAY (___):
FINDINGS:  AP, oblique, and lateral views of the left knee.  The 
bones are diffusely osteopenic.  Tricompartmental degenerative 
changes are noted with joint space loss and osteophyte 
formation.  There is no acute fracture.  Dense atherosclerotic 
calcifications are noted.  There may be a small supra patellar 
joint effusion.
IMPRESSION:  Degenerative changes without acute fracture.

CXR ___: IMPRESSION:  No definite acute cardiopulmonary 
process.

C-SPINE TRAUMA W/FLEX & EXT 5 VIEWS (___):
IMPRESSION:  Although C7 is not evaluated on the current study, 
no definite acute fractures are seen.  Severe degenerative 
change within the lower cervical spine.

R KNEE XRAY (___): FINDINGS: 
No acute fractures or dislocations are seen.There are severe 
degenerative changes with bone-on-bone contact within the medial 
compartment. Large spurs are seen within all 3 compartments. 
Chondrocalcinosis is identified.There is no knee joint effusion. 
There are extensive vascular calcifications.
IMPRESSION: Severe degenerative changes worse within the medial 
compartment.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ with h/o breast cancer s/p simple 
mastectomy in ___, admitted s/p mechanical fall and with 
UTI.

# s/p fall: Mechanical fall.  Per staff at patient's living 
facility, fall was unwitnessed.  Patient was found in the AM in 
sitting position in the bathroom.  Patient denied LOC. C-spine 
cleared by imaging in ED, CT head w/out acute process.  No 
fractures seen on knee and chest X-rays.  Patient with 
difficulty on ambulation, likely secondary to degenerative joint 
disease in knees bilaterally and deconditioning.   Patient seen 
by ___, recommended dc to rehab.

# UTI: U/A c/w UTI.  Is complicated as patient w/ history of 
diabetes.  Received macrobid in the ED, started on IV CTX on 
medical  floor empirically.  Urine culture grew pan-sensitive 
e.coli.  Antibiotic regimen changed to Bactrim DS BID.  
Discharged on Bactrim DS to complete 7 day course of 
antibiotics.

# NIDDM: Held metformin while inpatient.  Was kept HISS while 
inpatient.  Sugars were well-controlled.

# HTN: Continued home Hydrochlorothiazide 25 mg po daily.  On 
Irbesartan 225 mg at home, however this was non-formulary, given 
losartan in its place.  BPs was largely well-controlled.

# HLD: Continue home simvastatin 20 mg daily.

# Osteoporosis: Continue home vitamin D and calcium.  Continued 
home Alendronate 70 mg q saturda

# Glaucoma: Continued home eye drops.

# GERD: Continue home prilosec

# Depression: Continue home sertraline.

TRANSITIONAL ISSUES:
=====================
# s/p fall: no acute fractures.  fall was unwitnessed.  Likely 
related to poor mobility, deconditioning.  Was seen by ___, 
recommended discharge to rehab.  Will follow up with orthopedics 
for management of degenerative disk disease.

# urinary tract infection: UCx with E.coli, pan sensitive.  Was 
initially treated with IV Ceftriaxone.  Converted to Bactrim.  
Will discharge on 5 days of Bactrim DS BID (last day of 
antibiotics ___.

# CODE: DNR/DNI 
# EMERGENCY CONTACT: ___ (daughter): ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QSAT 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. irbesartan 225 mg oral Daily 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
5. MetFORMIN (Glucophage) 500 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Sertraline 50 mg PO DAILY 
8. Simvastatin 20 mg PO DAILY 
9. Acetaminophen 500 mg PO Q8H:PRN pain 
10. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral BID 
11. Psyllium 1 PKT PO BID 
12. Floranex (lactobacillus acidoph & bulgar) 1 million cell 
oral BID 
13. Refresh Optive (carboxymethylcellulose-glycern) 0.5-0.9 % 
ophthalmic QID 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q8H:PRN pain 
2. Alendronate Sodium 70 mg PO QSAT 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
5. Omeprazole 20 mg PO DAILY 
6. Psyllium 1 PKT PO BID 
7. Sertraline 50 mg PO DAILY 
8. Simvastatin 20 mg PO DAILY 
9. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral BID 
10. Floranex (lactobacillus acidoph & bulgar) 1 million cell 
oral BID 
11. irbesartan 225 mg ORAL DAILY 
12. MetFORMIN (Glucophage) 500 mg PO DAILY 
13. Refresh Optive (carboxymethylcellulose-glycern) 0.5-0.9 % 
ophthalmic QID 
14. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p Fall
Urinary Tract Infection
Degenerative Joint Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your admission to ___ 
___.  You were admitted after a fall 
at your living facility.  Imaging studies were done which showed 
that you did not have any fractures.  You were found to have a 
urinary tract infection and were started on antibiotics for 
this.  It was determined you were safe to be discharged.  Please 
complete your antibiotics as prescribed and keep your follow up 
appointments as scheduled.  Should you develop fevers, flank 
pain or pain with urination, please seek evaluation at a 
physician's office or at your nearest emergency department.

-Your ___ Team
 
Followup Instructions:
___